US08058441B2
1-Acetyl-6-(5-methylnicotinoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Condensation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (0.10 g) with 5-methyl nicotinic acid (0.13 g) under the agency of HATU (0.18 g) and N,N-diisopropylethylamine (0.28 ml) in dichloromethane (2 ml) was performed according to the method described in example 11.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 0.10 g | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 5-methyl nicotinic acid | 0.13 g | CC=1C=NC=C(C(=O)O)C1 | C7H7NO2
reactant | HATU | 0.18 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.28 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Acetyl-6-(5-methylnicotinoyl)amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=CN=CC(=C1)C)=O)(C)C1=CC=CC=C1)(C)C | C27H29N3O2
